US07145009B2
4-Chloro-6-nitro-m-xylene
A solution of sodium nitrite (7.2 g, 0.1 mol) in water (20 mL) was added dropwise over 45 min at <5° C. to a stirred suspension of 5-nitro-2,4-xylidine (16.6 g, 0.1 mol) in conc. hydrochloric acid (300 mL). After complete addition the reaction was stirred at <5° C. for 1 h then a solution of copper(I)chloride (16.0 g, 0.16 mol) in conc. hydrochloric acid (50 mL) was added dropwise over 20 min at <5° C. (CARE: effervescence at first). The reaction was then warmed from 0° C. to room temperature and stirred for 18 h. The mixture was then carefully poured into water (1 L) and extracted with ethyl acetate (3×300 mL). The combined organic extracts were dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude oil. The oil was purified by flash column chromatography (SiO2; heptane) to give the product as a yellow oil (8.8 g, 47%). IR νmax (film)/cm−1 3103, 2985, 2935, 2863, 2744, 2432, 1610, 1572, 1518, 1480, 1454, 1384, 1346, 1286, 1266, 1244, 1197, 1166, 1157, 1107, 1036, 982, 894, 842, 759, 746, 725, 704, 646 and 602; NMR δH (400 MHz; CDCl3) 8.01 (1H, s), 7.20 (1H, s), 2.56 (3H, s), 2.41 (3H, s).

reactant | sodium nitrite | 0.1 mol, 7.2 g | N(=O)[O-].[Na+]
reactant | 5-nitro-2,4-xylidine | 0.1 mol, 16.6 g | [N+](=O)([O-])C1=C(C=C(C(N)=C1)C)C | C8H10N2O2
reactant | hydrochloric acid | 300 mL | Cl | ClH
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
catalyst | copper(I)chloride | 0.16 mol, 16.0 g | [Cu]Cl
solvent | water | 1 L | O | H2O
product | 4-Chloro-6-nitro-m-xylene | 8.8 g, 47% | ClC1=C(C=C(C(=C1)[N+](=O)[O-])C)C | C8H8ClNO2
